US07973050B2
Preparation of 6,8-Dibromo-chroman-4(S)-ol
To a mixture containing 6,8-dibromochroman-4-one in acetonitrile (0.3M) and 5/2 formic acid/triethylamine (30% by volume) was added (1S,2S)-(+)-N-p-tosyl-1,2-diphenylethylene diamine (1 mol %) and dichloro(p-cymene)-ruthenium (II) dimer (0.5 mol %). After stirring for 24 h, the reaction was diluted with ethylacetate and washed with brine/sodium bicarbonate (1:1). The organic phase was concentrated under reduced pressure to afford the title compound as a tan solid.

reactant | 6,8-dibromochroman-4-one | BrC=1C=C2C(CCOC2=C(C1)Br)=O | C9H6Br2O2
reactant | formic acid triethylamine | C(=O)O.C(C)N(CC)CC
reactant | (1S,2S)-(+)-N-p-tosyl-1,2-diphenylethylene diamine | CC1=CC=C(C=C1)S(=O)(=O)N[C@@H](C2=CC=CC=C2)[C@H](C3=CC=CC=C3)N | C21H22N2O2S
solvent | acetonitrile | 0.3M | C(C)#N | C2H3N
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
catalyst | dichloro(p-cymene)-ruthenium (II) dimer | CC1=CC=C(C=C1)C(C)C.CC1=CC=C(C=C1)C(C)C.Cl[Ru]Cl.Cl[Ru]Cl
product | 6,8-Dibromo-chroman-4(S)-ol | BrC=1C=C2[C@H](CCOC2=C(C1)Br)O | C9H8Br2O2
